US05498728
To a solution, being ice cool, ed, of N-tert-butoxycarbonyl-(L)-isoleucyl-(L)-tryptophanol (1.0 g) in chloroform (10 ml), trifluoroacetic acid (5%, 0.5 g) was added, followed by stirring at the same temperature for 4 hours. After the reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue. The ethyl acetate layer was washed with water and dried (MgSO4), and the solvent was distilled off to yield (L)-isoleucyl-(L)-tryptophanol as an oily substance. This oily substance was dissolved in chloroform (20 ml), and p-toluenesulfonyl chloride (0.52 g) was added and then triethylamine (1.4 ml) was added at 0° C. After stirring at room temperature for 2 days, the reaction mixture was poured over water and extracted with chloroform. After the chloroform layer was dried (MgSO4), the solvent was distilled off, and the oily residue was recrystallized from ethyl acetate to yield N-(p-toluenesulfonyl)-(L)-isoleucyl-(L)-tryptophanol (0.32 g, 28%).

reactant | N-tert-butoxycarbonyl-(L)-isoleucyl-(L)-tryptophanol | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C22H33N3O4
reactant | trifluoroacetic acid | 0.5 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (L)-isoleucyl-(L)-tryptophanol | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C17H25N3O2
